US03997530
A 1.0 g. sample of the mixture of 4-(5-cyclopropyl-3-isoxazolyl)pyridine and 4-(3-cyclopropyl-5-isoxazolyl)pyridine, obtained as described in Examples 2 and 3, is mixed with 0.125 g. of platinum oxide and 75 ml. of ethanol. This mixture is treated with hydrogen on a Parr apparatus at 40 psi for 2 hours at room temperature. The mixture is filtered and the filtrate concentrated to yield a solid. Recrystallization from ethyl acetate-petroleum ether (30°-60° C.) provides 3-amino-3-cyclopropyl-1-(4-pyridyl)-2-propen-1-one as white crystals, melting point 124°-125° C. The ethyl acetate petroleum ether (30°-60° C.) filtrate is concentrated to a solid which is recrystallized from aqueous ethanol to give 4-(5-cyclopropyl-3-isoxazolyl)pyridine as white crystals, melting point 78°-79.5° C., nmr spectrum δ6.85 (DMSO-d6, s, 4-isoxazolyl H).

reactant | 4-(5-cyclopropyl-3-isoxazolyl)pyridine | C1(CC1)C1=CC(=NO1)C1=CC=NC=C1 | C11H10N2O
reactant | 4-(3-cyclopropyl-5-isoxazolyl)pyridine | C1(CC1)C1=NOC(=C1)C1=CC=NC=C1 | C11H10N2O
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-3-cyclopropyl-1-(4-pyridyl)-2-propen-1-one | NC(=CC(=O)C1=CC=NC=C1)C1CC1 | C11H12N2O
